*=============================================================
* Task 4 - AMUX2_3V
* POST-LAYOUT simulation using Magic-extracted SPICE
* Select = 1 : I1 should propagate to OUT
*=============================================================

.include "../step4_extraction/AMUX2_3V_extracted.spice"

.param VDDVAL=1.8

VDD VDD 0 {VDDVAL}
VSS VSS 0 0

* Select permanently HIGH
VSEL select 0 1.8

* I0 held LOW
VI0 I0 0 0

* I1 toggles
VI1 I1 0 PULSE(0 1.8 1n 20p 20p 5n 10n)

* Output load
CLOAD out 0 20f

* Extracted layout DUT
XMUX I0 I1 select out VDD VSS AMUX2_3V_magic83_DRC0_select_fixed

* SKY130 typical corner
.lib "/home/anusri/.ciel/ciel/sky130/versions/f6eeac7dad085ffcc829ccfd721f7b4ce39edcf7/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.tran 1p 20n

.control
run
write results/select1_postlayout.raw all
.endc

.end
