*=============================================================
* Task 4 - AMUX2_3V
* Pre-layout simulation
* Select = 0 : I0 should propagate to OUT
*=============================================================

.include "AMUX2_3V.spice"

.param VDDVAL=1.8

VDD VDD 0 {VDDVAL}
VSS VSS 0 0

* Select permanently LOW
VSEL select 0 0

* I0 toggles
VI0 I0 0 PULSE(0 1.8 1n 20p 20p 5n 10n)

* I1 held at opposite value
VI1 I1 0 1.8

* Output load
CLOAD out 0 20f

* Instantiate MUX
XMUX I0 I1 select out VDD VSS AMUX2_3V

* SKY130 typical corner
.lib "/home/anusri/.ciel/ciel/sky130/versions/f6eeac7dad085ffcc829ccfd721f7b4ce39edcf7/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.tran 1p 20n

.control
run

write results/select0.raw all



.endc

.end
